US07410966B2
6-Bromo-2-(1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and pyrazole-3-carbaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | pyrazole-3-carbaldehyde | N1N=C(C=C1)C=O | C4H4N2O
product | 6-Bromo-2-(1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=NNC=C2 | C9H6BrN5
